US07973067B2
Step 1: 2-Hydrazinocarbonylpropane-2-sulfonic acid Cyclohexylamide
Using a method similar to that described by S. Paik and E. H. White (Tetrahedron, 1996, 52, 5303), 2-cyclohexylsulfamoyl-2-methylpropionic acid ethyl ester DF1 (which is prepared by the method of A. De Blic et al. (Synthesis, 1982, 281)) in ethanol is treated with 1.2 equivalent of 95% hydrazine under N2 and the mixture is allowed to stand at RT for 12 h. The reaction mixture is concentrated to give the title compound DF2 which is used directly in Step 2.

reactant | 2-cyclohexylsulfamoyl-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)S(NC1CCCCC1)(=O)=O)=O | C12H23NO4S
reactant | hydrazine | 1.2 equivalent | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 2-Hydrazinocarbonylpropane-2-sulfonic acid Cyclohexylamide | C1(CCCCC1)NS(=O)(=O)C(C)(C)C(=O)NN | C10H21N3O3S
